US06875765B2
To a solution of 4-bromo-naphthalene-1-carboxylic acid methyl ester (2.0 g, 7.9 mmol) in toluene (20 mL) was added allyltributyltin (2.7 mL), tetrakis(triphenylphosphine)palladium(0) (183 mg, 0.16 mmol) and 2 crystals of BHT. The system was purged under vacuum and nitrogen and allowed to heat to 120° C. under N2 for 4 h. TLC analysis (silica, 1:1 ethyl acetate-hexanes) showed the reaction to be completed with only one new fluorescent spot present. The mixture was diluted with ether, washed with H2O, 10% HCl, and then saturated sodium bicarbonate, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was purified by flash chromatography (SiO2, 9:1 hexanes-ether) to give (1.6 g, 89%) 4-allylnaphthalene-1-carboxylic acid methyl ester as a colorless liquid. MS m/z 227.1 (M+1). 1H NMR (400 mHz) CDCl3 8.95(d 1H), 8.11(d, 1H), 8.08(d, 1H), 7.58(m, 2H), 7.37(d, 1H), 6.09(m, 1H), 5.11(m, 2H), 3.99(s, 3H), 3.88(d, 2H).

reactant | 4-bromo-naphthalene-1-carboxylic acid methyl ester | 7.9 mmol, 2.0 g | COC(=O)C1=CC=C(C2=CC=CC=C12)Br | C12H9BrO2
reactant | allyltributyltin | 2.7 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.16 mmol, 183 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-allylnaphthalene-1-carboxylic acid methyl ester | 1.6 g, 89% | COC(=O)C1=CC=C(C2=CC=CC=C12)CC=C | C15H14O2
